US09382222B2
Step 4: (N-Isobutyl-4-(1-methanesulfonyl-piperidin-4-ylidenemethyl)-N-(2-trifluoromethyl-benzyl)-benzenesulfonamide)
A mixture of N-isobutyl-4-(1-methanesulfonyl-piperidin-4-ylidenemethyl)-benzenesulfonamide (375 mg, 0.97 mmol), 2-(trifluoromethyl)benzyl bromide (289 mg, 1.22 mmol) and K2CO3 (201 mg, 1.46 mmol) in DMF (5 mL) was heated at 110° C. for 6 hours. The cooled mixture was diluted with EtOAc, washed with water and brine, dried over Na2SO4 and concentrated under vacuum. Purification by silica gel column chromatography (0-100% EtOAc in cyclohexane) and concentrating the residue from Et2O gave the title compound (290 mg, 55%). 1H NMR (400 MHz, DMSO) δ 7.83 (d, J=8.3 Hz, 2H), 7.70-7.73 (m, 3H), 7.49 (t, J=8.1 Hz, 3H), 6.51 (s, 1H), 4.46 (s, 2H), 3.22 (dt, J=30.4, 5.7 Hz, 4H), 2.96 (d, J=7.3 Hz, 2H), 2.89 (s, 3H), 2.49-2.50 (m, 4H), 1.39-1.40 (m, 1H), 0.70 (d, J=6.6 Hz, 6H). LCMS (m/z, Method B) ES+ 544.9 [M+1]+.

reactant | N-isobutyl-4-(1-methanesulfonyl-piperidin-4-ylidenemethyl)-benzenesulfonamide | 0.97 mmol, 375 mg | C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C=C1CCN(CC1)S(=O)(=O)C | C17H26N2O4S2
reactant | 2-(trifluoromethyl)benzyl bromide | 1.22 mmol, 289 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
reactant | K2CO3 | 1.46 mmol, 201 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Isobutyl-4-(1-methanesulfonyl-piperidin-4-ylidenemethyl)-N-(2-trifluoromethyl-benzyl)-benzenesulfonamide | 290 mg, 55% | C(C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)C=C1CCN(CC1)S(=O)(=O)C)CC1=C(C=CC=C1)C(F)(F)F | C25H31F3N2O4S2
